US05324747
A solution of 0.43 g (0.85 mmol) of 4-[3,5-bis(decyloxy)phenyl]2,6-morpholinedione and 0.23 ml (1.71 mmol) of N,N-diethylethanolamine in 40 ml of methylene chloride was kept at room temperature for 3.5 days. The solvent was removed at reduced pressure and the residue was dissolved in ethyl acetate. The extract was washed with water and then with 0.5N HCl, dried and concentrated at reduced pressure to a yellow foam which was dissolved in ether and cooled. Filtration gave 0.46 g (82% yield, mp 89°-91°) of N-(2-diethylaminoethoxy-2-oxoethyl)-N-[3,5-bis(decyloxy)phenyl]glycine monohydrochloride salt.

reactant | 4-[3,5-bis(decyloxy)phenyl]2,6-morpholinedione | 0.85 mmol, 0.43 g | C(CCCCCCCCC)OC=1C=C(C=C(C1)OCCCCCCCCCC)N1CC(OC(C1)=O)=O | C30H49NO5
reactant | N,N-diethylethanolamine | 1.71 mmol, 0.23 ml | C(C)N(CCO)CC | C6H15NO
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-(2-diethylaminoethoxy-2-oxoethyl)-N-[3,5-bis(decyloxy)phenyl]glycine monohydrochloride salt | 0.46 g, 82% yield | Cl.C(C)N(CCOC(CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC)=O)CC | InChI=1S/C36H64N2O6.ClH/c1-5-9-11-13-15-17-19-21-24-42-33-27-32(28-34(29-33)43-25-22-20-18-16-14-12-10-6-2)38(30-35(39)40)31-36(41)44-26-23-37(7-3)8-4;/h27-29H,5-26,30-31H2,1-4H3,(H,39,40);1H
